US05449676
3-Amino-6-(3-methoxy-4-propoxyphenyl)pyridazine
10 g (35.9 mmol) of 3-chloro-6-(3-methoxy-4-propoxyphenyl)pyridazine are heated in 50 ml of ethylene glycol which has been saturated with ammonia at 0° C. in an autoclave at 220° C. for 6 hours. After cooling, the reaction mixture is diluted with 500 ml of water, and the precipitate which forms is filtered off with suction. The crude product is dried and then purified by column chromatography on silica gel with chloroform as eluent. 7.6 g (81.7%) of the title compound of m.p. 147° C. are obtained.

reactant | 3-chloro-6-(3-methoxy-4-propoxyphenyl)pyridazine | 35.9 mmol, 10 g | ClC=1N=NC(=CC1)C1=CC(=C(C=C1)OCCC)OC | C14H15ClN2O2
reactant | ammonia | N | H3N
solvent | ethylene glycol | 50 ml | C(CO)O | C2H6O2
solvent | water | 500 ml | O | H2O
product | 3-Amino-6-(3-methoxy-4-propoxyphenyl)pyridazine | 7.6 g, 81.7% | NC=1N=NC(=CC1)C1=CC(=C(C=C1)OCCC)OC | C14H17N3O2
